US05078907
Preparation of Monopropyl Terephthaloyl Chloride
This compound was prepared by the procedure described for monomethyl terephthaloyl chloride. Typical reagent levels were as follows: potassium monopropyl terephthalate (49.0g, 0.20 mole), thionyl chloride (29.8g, 0.25 mole) and 100 ml of toluene. The product was used without further purification.

reactant | monomethyl terephthaloyl chloride | CC1=C(C(=O)Cl)C=CC(=C1)C(=O)Cl | C9H6Cl2O2
reactant | potassium monopropyl terephthalate | 0.20 mole, 49.0g | C(C1=CC=C(C(=O)[O-])C=C1)(=O)OCCC.[K+]
reactant | thionyl chloride | 0.25 mole, 29.8g | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | Monopropyl Terephthaloyl Chloride | C(CC)C1=C(C(=O)Cl)C=CC(=C1)C(=O)Cl | C11H10Cl2O2
